US08471005B2
(6-{7-[3-(Pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-1H-benzoimidazol-2-yl)-methanol was prepared from 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol and (6-amino-1H-benzoimidazol-2-yl)-methanol; dihydrochloride in an analogous manner to Example 1052a. Product isolated as a yellow foam (57 mg, 40%). LCMS (m/e) 490 (M+H); 1H-NMR (d6-DMSO, 400 MHz) δ 12.23-12.01 (m, 1H), 9.47-9.35 (m, 1H), 9.05-8.99 (m, 1H), 8.77-8.61 (m, 1H), 8.35-8.26 (m, 1H), 7.91-7.70 (m, 3H), 7.62-7.37 (m, 2H), 7.32-7.24 (m, 1H), 7.01-6.94 (m, 1H), 5.67-5.58 (m, 1H), 4.70-4.62 (m, 2H), 3.22-3.12 (m, 4H), 1.69-1.60 (m, 4H).

reactant | 7-[3-(pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C16H16N4O3S
reactant | (6-amino-1H-benzoimidazol-2-yl)-methanol | NC=1C=CC2=C(NC(=N2)CO)C1 | C8H9N3O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | (6-{7-[3-(Pyrrolidine-1-sulfonyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-1H-benzoimidazol-2-yl)-methanol | N1(CCCC1)S(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=CC1=C(NC(=N1)CO)C2 | C24H23N7O3S
